US07517532B2
Step 4: 4-Acetyl-1-(4-fluorobenzyl)piperazin-2-one
A mixture of 4-acetyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one (141 g, 0.57 mol) and 5% Pd/C (10.4 g) in ethanol (500 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The product mixture was filtered through a pad of Celite, and concentrated under vacuum to provide the title compound. Residual ethanol was removed by co-evaporation with toluene (3×) under vacuum. The resultant oil solidify on standing and was used in the next step without further purification.

reactant | 4-acetyl-1-(4-fluorobenzyl)-3,4-dihydropyrazin-2(1H)-one | 0.57 mol, 141 g | C(C)(=O)N1CC(N(C=C1)CC1=CC=C(C=C1)F)=O | C13H13FN2O2
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | Pd/C | 10.4 g | [Pd] | Pd
product | 4-Acetyl-1-(4-fluorobenzyl)piperazin-2-one | C(C)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C13H15FN2O2
